US20010029239A1
A solution of boron tribromide (1.4 ml) in dichloromethane was added dropwise during 0.5 hour to a stirred solution of 2-methoxy-6-phenylthiobenzoic acid (4.1 g) under an inert atmosphere at −70° C. After a further 0.5 hour the solution was allowed to warm to ambient temperature, diluted with water and extracted (ethyl acetate). The organic phase washed with brine, dried (magnesium sulphate) and evaporated to give 2-hydroxy-6-phenylthiobenzoic acid (4.0 g).

reactant | boron tribromide | 1.4 ml | B(Br)(Br)Br | BBr3
reactant | 2-methoxy-6-phenylthiobenzoic acid | 4.1 g | COC1=C(C(=S)O)C(=CC=C1)C1=CC=CC=C1 | C14H12O2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-hydroxy-6-phenylthiobenzoic acid | 4.0 g | OC1=C(C(=S)O)C(=CC=C1)C1=CC=CC=C1 | C13H10O2S
